US07642361B2
4-Cyano-3-(2′-cyano-biphenyl-4-yl)-5-dimethylamino-thiophene-2-carboxylic acid ethyl ester
Add 4-cyano-3-(2′-cyano-biphenyl-4-yl)-5-methanesulfonyl-thiophene-2-carboxylic acid ethyl ester (100 mg, 0.23 mmol) to 3 mL of 2N dimethylamine in THF and stir under nitrogen at room temperature for 90 minutes. Evaporate to a tan solid which is used without further purification. MS(ES+, m/e)=402 (M++1); HPLC=89%.

reactant | 4-cyano-3-(2′-cyano-biphenyl-4-yl)-5-methanesulfonyl-thiophene-2-carboxylic acid ethyl ester | 0.23 mmol, 100 mg | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C#N)S(=O)(=O)C | C22H16N2O4S2
reactant | dimethylamine | 2N, 3 mL | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | 4-Cyano-3-(2′-cyano-biphenyl-4-yl)-5-dimethylamino-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C#N)N(C)C | C23H19N3O2S
